US03937714
4-Methyl-2-methylaminobenzothiazole hydrobromide (443 g.; 1.71 mole) was added with stirring to 1.7 liter of ethylene glycol. 85% Hydrazine hydrate (400 grams; 6.75 mole) was added in several portions. The reaction mixture was heated to 130°-135°C. under N2 atmosphere and maintained for about four hours, then cooled slowly with stirring. The product was isolated by addition of water and separated by filtration. It was then dried overnight in a vacuum oven, yielding 275.5 g. (90% yield) of 4-methyl-2-hydrazinobenzothiazole. The nmr spectrum agreed with a reference spectrum and showed no evidence of starting material or other impurity. Non-aqueous titration showed the product to be 97.5% pure.

reactant | 4-Methyl-2-methylaminobenzothiazole hydrobromide | 1.71 mole, 443 g | Br.CC1=CC=CC2=C1N=C(S2)NC
reactant | ethylene glycol | 1.7 liter | C(CO)O | C2H6O2
reactant | Hydrazine hydrate | 6.75 mole, 400 grams | O.NN
solvent | water | O | H2O
product | 4-methyl-2-hydrazinobenzothiazole | 90% yield | CC1=CC=CC2=C1N=C(S2)NN | C8H9N3S
